US07655768B2
Step 2. Synthesis of 19,19,19-triphenyl-3,6,9,12,15,18-hexaoxanonadecanol
25 g of hexaethyleneglycol was dissolved in a mixture of 100 mL of acetonitrile and 30 mL of pyridine, to which 12.5 g of trityl chloride was added at 0° C., and then the solution was stirred overnight at room temperature. The reaction solution was mixed with iced water and subjected to extraction with ethyl acetate, and then the organic layer washed with water and concentrated under reduced pressure after drying. The residue was purified with silica gel column chromatography to obtain 15.7 g of the objective compound.

reactant | hexaethyleneglycol | 25 g | C(COCCOCCOCCOCCOCCO)O | C12H26O7
reactant | trityl chloride | 12.5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | water | O | H2O
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
solvent | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
product | 19,19,19-triphenyl-3,6,9,12,15,18-hexaoxanonadecanol | 15.7 g | C1(=CC=CC=C1)C(OCCOCCOCCOCCOCCOCCO)(C1=CC=CC=C1)C1=CC=CC=C1 | C31H40O7
